US07629375B2
1C. 4-[2-(3,4-Bis-methoxymethoxy-phenyl)vinyl]-benzoic acid ethyl ester
To a mixture of 3,4-bis-methoxymethoxy-benzaldehyde (100 mmol) and (4-methoxycarbonyl-benzyl)-triphenyl-phosphonium bromide (100 mmol) in of EtOH (300 mL) at 0° C. was added slowly of a lithium ethoxide solution (101 mL, 1 M in EtOH). Upon the completion of the addition, the cold bath was removed and the reaction was allowed to warm to room temperature. The stirring was continued for additional 2 h. The solvent was then removed by rotary evaporation and residue was taken up to 500 mL of EtOAc and washed with ammonium chloride solution (2×100 mL) and water. The organic layer was dried over Na2SO4 and the crude product was purified on silica (hexane:EtOAc=2:1) to afford a clear sticky solid (yield 99%). NMR indicated the purified product is a mixture of cis/trans isomers containing ethyl and methyl esters. 1H-NMR (300 MHz, CDCl3) δ 8.02 (d, J=0.84, 1.5H), 7.93 (d, J=0.84, 0.5H), 7.91 (s, 0.3H), 7.55 (s, 0.75H), 7.52 (s, 0.75H), 7.38-7.33 (m, 1.25H), 7.17-7.12 (m, 2.25H), 7.03-6.98 (m, 1.25H), 6.84 (m, 0.25H), 6.61-6.52 (m, 0.5H), 5.29-5.05 (m, 4H), 4.41-4.25 (m, 1H), 3.90 (s, 1.5H), 3.56-3.39 (m, 6H), 1.40 (q, J=6 Hz, 1.5H).

reactant | 3,4-bis-methoxymethoxy-benzaldehyde | 100 mmol | COCOC=1C=C(C=O)C=CC1OCOC | C11H14O5
reactant | (4-methoxycarbonyl-benzyl)-triphenyl-phosphonium bromide | 100 mmol | [Br-].COC(=O)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | lithium ethoxide | 1 M, 101 mL | [O-]CC.[Li+]
solvent | EtOH | 300 mL | CCO | C2H6O
product | 4-[2-(3,4-Bis-methoxymethoxy-phenyl)vinyl]-benzoic acid ethyl ester | yield 99% | C(C)OC(C1=CC=C(C=C1)C=CC1=CC(=C(C=C1)OCOC)OCOC)=O | C21H24O6
